US04024134
A solution of t-butyl 3-acetoxymethyl-7β-[2-hydroxyimino-2-phenylacetamido]-ceph-3-em-4-carboxylate (syn-isomer) (1.45 g.) in trifluoroacetic acid (25 ml.) was allowed to stand at room temperature for 10 minutes. The trifluoroacetic acid ws evaporated under reduced pressure, the residue dissolved in ether (50 ml.) and extracted with saturated aqueous sodium bicarnbonate. The combined aqueous extracts were acidified (2N hydrochloric acid) and extracted with ethyl acetate. The combined extracts were washed with water, dried and evaporated. The residue was redissolved in ethyl acetate (5 ml.) and added dropwise with stirring to petroleum (b.p. 40°-60° C; 500 ml.). The precipitated solid was filtered and dried, giving 3-acetoxymethyl-7β-[2-hydroxyimino-2-phenylacetamido]-ceph-3-em-4-carboxylic acid (syn-isomer) (0.515g; 42%), [α]D + 56° (c 0.5, DMSO), λmax. (EtOH) 253 nm (ε 16,600), νmax. (Nujol) 33SO (NH and OH), 1778 (β-lactam), 1720 (CO2H and acetate), 1666 and 1540 cm.-1 (CONH) τ (DMSO-d6) values include 0.32 (doublet, J 9 Hz; NH) 2.15-2.7 (multiplet; aromatic protons), 7.8 (singlet; CH3CO).

reactant | t-butyl 3-acetoxymethyl-7β-[2-hydroxyimino-2-phenylacetamido]-ceph-3-em-4-carboxylate | 1.45 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(C(C2=CC=CC=C2)=NO)=O)=O | C22H25N3O7S
solvent | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-acetoxymethyl-7β-[2-hydroxyimino-2-phenylacetamido]-ceph-3-em-4-carboxylic acid | 0.515g, 42% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(C2=CC=CC=C2)=NO)=O)=O | C18H17N3O7S
